US05576343
Preparation of Ethyl 2-[4-[((3S)-1-acetyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate
2.3 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate was dissolved in 3 ml of anisole. 25 ml of trifluoroacetic acid was added to the above solution with ice cooling, and the resulting mixture was stirred at room temperature for 1 hour. After distilling off trifluoroacetic acid under reduced pressure, the residue thus obtained was adjusted to pH 10-11 with saturated sodium bicarbonate aqueous solution, extracted with chloroform, and then dried. At room temperature, the resulting organic layer was mixed with 2 ml of triethylamine and then with 555 mg of acetyl chloride, followed by stirring at the same temperature for 0.5 hours. After distilling off the solvent, the resulting residue was subjected to silica gel column chromatography using a chloroform/ethanol mixture as an eluant to obtain 1.8 g of the title compound.

reactant | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate | 2.3 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)CC=1OC2=C(C1)C=C(C=C2)C#N | C29H32N2O6
reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | anisole | 3 ml | C1(=CC=CC=C1)OC | C7H8O
product | Ethyl 2-[4-[((3S)-1-acetyl-3-pyrrolidinyl)oxy]phenyl]-3-(5-cyano-2-benzofuranyl)propionate | 1.8 g | C(C)(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)CC=1OC2=C(C1)C=C(C=C2)C#N | C26H26N2O5
